Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Topamax / Lipitor
 
Attending: ___.
 
Chief Complaint:
hip pain
 
Major Surgical or Invasive Procedure:
___ -  Successful US-guided aspiration of a subcutaneous 
collection around the left iliac crest. 

___ - Successful US-guided aspiration of a subcutaneous fluid 
collection around the left iliac crest.

 
History of Present Illness:
Patient is a ___ year old woman with stage IVb endometrial cancer 
with metastasis to bone complicated by recent right hip and 
femoral shaft fractures s/p hemiarthroplasty ___, left hip 
arthroplasty ___, and excision and curettage metastasis in the 
pelvis on ___, DM, OSA, morbid obesity, bipolar disorder, 
complicated diverticulitis s/p colostomy, who was admitted from 
___ clinic due to concern for abscess.

Briefly, she initially presented in ___ with left hip pain 
and found to 
have pathologic fracture of left acetabulum and new lytic lesion 
on CT, eventually diagnosed to be metastatic from endometrial 
adenocarcinoma on bone biopsy. She then underwent planned left 
hip tumor resection and total hip arthroplasty in ___, course 
complicated by blood loss anemia requiring a total of 14 u prbc. 
Following discharge to rehab, patient was readmitted in ___ 
for concern for cellulitis around her abdominal surgical 
incision. SHe was treated with vancomycin 1g q8hr. CT scan at 
that time on ___ did show fluid collections in the surgical 
field along the left iliac wing and within the left inguinal 
region. As cellulitis showed significant improvement, no 
surgical 
intervention was undertaken. Had been planned for IV vancomycin 
via PICC (placed ___ until ___. On subsequent ___ clinic 
visits, she has been noted to have continued erythema on left 
lateral body extending from LLQ and back over left hip surgical 
site to left mid thigh. Her vancomycin was extended for 2 more 
weeks. However on repeat CT on ___, she was again noted to have 
increased sizes of multiloculated abscesses in the region of the 
left hip with increased size of right retroperitoneal lymph 
node, likely reactive. THese findings were reiviewed with 
patient at her ___ clinic appointment on ___, ___ and 
ortho-onc was contacted and pt was given 1L IVF, cultured and 
direct admitted to ___. Her last dose of vancomycin was given 
this morning and she will not be due for the next dose until 
tomorrow.   

On arrival to floor, she reports ongoing pain at surgical site, 
also reports chills at home, mild nausea. Denies documented 
fevers, increased ostomy output, chest pain, shortness of 
breath.

 
Past Medical History:
- Bipolar d/o
- Migraines
- DM
- Hypothyroidism
- HTN
- Question of CHF 
- bunion removal 2 wks ago
- s/p appendectomy
 
Social History:
___
Family History:
Sz - none
Strokes - none.
CAD - father/mother
Stomach Cancer- father/mother
___- Brother
 

 
Physical Exam:
ADMISSION
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+, well healed surgical scars, colostomy 
with minimal brown output
 MSK: No significant kyphosis. No palpable synovitis. 1+ edema 
at ankles
 Skin:  erythema extending from LLQ to left hip surgical site 
and left mid thigh, indurated, warm to touch
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect 

DISCHARGE
VS: 98.1 PO 118 / 62 L Lying 66 18 97 RA 
___: 83 - ___
Gen: sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally, no wheezes, crackles or ronchi 
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - R hip with well healing surgical scar; L hip with healing 
surgical scar with mild induration, improved per patient; no 
focal pain or fluctuance; 
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities; 
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 10:30AM BLOOD WBC-5.7 RBC-3.94 Hgb-11.5 Hct-37.2 MCV-94 
MCH-29.2 MCHC-30.9* RDW-14.5 RDWSD-50.8* Plt ___
___ 05:38AM BLOOD Glucose-98 UreaN-11 Creat-1.0 Na-141 
K-3.9 Cl-100 HCO3-31 AnGap-14
___ 05:38AM BLOOD ALT-6 AST-11 LD(LDH)-187 AlkPhos-79 
TotBili-0.2

DISCHARGE
___ 07:40AM BLOOD Glucose-91 UreaN-10 Creat-1.0 Na-141 
K-3.9 Cl-100 HCO3-32 AnGap-13
___ 05:51AM BLOOD WBC-4.0 RBC-3.81* Hgb-11.0* Hct-35.9 
MCV-94 MCH-28.9 MCHC-30.6* RDW-14.6 RDWSD-49.9* Plt ___
___ 11:53AM BLOOD CRP-37.4*

CT Abd/Pelvis ___
1. Mildly increased sizes of multiloculated abscesses in the 
region of the 
left hip, as described above, with increased size of right 
retroperitoneal 
lymph node, likely reactive.  ___ consider consult with 
interventional 
radiology to assess feasibility for drainage. 
2. Re-demonstration of loss of fat plane between the sigmoid 
colon and the 
anterior bladder wall with air seen within the bladder, 
concerning for 
colovesicular fistula. 
3. Persistent hypodense endometrium, which is abnormal in a 
postmenopausal 
patient.  ___ consider further evaluation with pelvic 
ultrasound. 

___ - US INTERVENTIONAL PROCE
Successful US-guided aspiration of a subcutaneous collection 
around the left iliac crest.  Sample sent for microbiology 
evaluation. 

Femur XR ___
Comparison to ___.  There is a new partial fracture 
of the right femoral shaft, visualized on 2 of the available 
projections, located at the level of the lowest of the 5 
cerclages.  At the level of the right hip as well as the 
displayed parts of the left lower extremity, there is no 
evidence of fractures. 

US MSK Hip ___
Persistent subcutaneous anechoic fluid collection measuring up 
to 4.4 cm 
located anterior to the left hemipelvis with overlying 
subcutaneous edema. 

US INTERVENTIONAL PROCE ___
Successful US-guided aspiration of a subcutaneous fluid 
collection around the left iliac crest.  310 cc straw-colored 
fluid was removed.  A sample was sent for microbiology 
evaluation. 

CXR ___
In comparison with study of ___, there is little change in 
the 
enlargement of the cardiac silhouette, degree of pulmonary 
vascular 
congestion, and left pleural effusion with compressive 
atelectasis at the base. Although no definite focal 
consolidation is appreciated, in view of the extensive changes 
ascribed above, it would be very difficult to unequivocally 
exclude superimposed pneumonia, especially in the absence of a 
lateral view. 
 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
diabetes, obesity, stage 4B endometrial cancer with multiple 
___ metastases complicated by pathologic fractures s/p R hip 
hemiarthroplasty and L hip arthroplasty, the latter complicated 
by surgical site infection admitted ___ with failure of 
medical therapy, now status post ___ guided drainage of abscess, 
now clinically improving able to be discharged back to rehab

# Surgical Site Infection
# Abscess L leg
# Complication of L hip replacement
Patient with recent hospital stay for post-operative 
complications after L hip replacement, including soft tissue 
abscess and cellulitis at surgical site, who was referred for 
admission with increasing erythema and imaging raising concern 
for fluid collections that were increasing in size and 
concerning for multiloculated abscess.  Ortho onc evaluated the 
patient and did not recommend surgical intervention. On ___ and 
___, ___ performed aspiration of L iliac crest fluid collection, 
with subsequent clinical improvement.  Patient initially on IV 
vancomycin, subsequently narrowed to oral clindamycin, with plan 
to complete course of antibiotics on ___.  At time 
discharge, L hip exam showed residual induration, but without 
pain or fluctuance, per ID felt to be residual resolving 
inflammation vs related to malignant disease (and not active 
infection). 

# R femoral fracture, closed 
On plain film of R femur, completed as part of post-operative 
check, she was incidentally found to have "new partial fracture 
of the right femoral shaft, visualized on 2 of the available 
projections, located at the level of the lowest of the 5 
cerclages." Patient was seen by orthopedics service who 
recommended against any surgical intervention.  Patient should 
remain partial weight bearing on R leg--they will arrange for 
outpatient orthopedic surgery follow-up.  

# Nocturnal Hypoxia
# Obstructive sleep apnea 
Patient with reported history of OSA, not on CPAP, noted to have 
intermittent episodes of nocturnal hypoxia.  Would consider 
outpatient evaluation for CPAP.  

# Endometrial cancer
Per oncology patient started on anastrozole daily.  Patient 
scheduled for outpatient onc follow-up. 

# Diabetes type 2
Reduced her lantus regimen given episode of hypoglycemia; 
continued humalog sliding scale. 

# Depression
# Bipolar disorder
Continued bupropion, clonazepam, Risperdal, and sertraline. 

# Glaucoma
Continued Latanoprost 

# Hypothyroidism
Continued Levothyroxine 

# Question of CHF
Per history, has a question of CHF in the past.  Would consider 
of outpatient workup to confirm/deny this and to guide 
consideration of appropriate management 

Transitional Issues
- Last day of PO clindamycin = ___
- L hip with residual induration, but without pain or 
fluctuance, per ID felt to be residual resolving inflammation
- Incidentally found R femoral fracture, as above, for which she 
should remain partial weight bearing on R leg and have 
outpatient ortho follow-up 
- Insulin dosing decreased this admission due to hypoglycemia
- Per primary oncologist, was started on anatrazole here
- Per history, has a question of CHF in the past.  Would 
consider of outpatient workup to confirm/deny this and to guide 
consideration of appropriate management 
- Recent outpatient CT scan showed "Re-demonstration of loss of 
fat plane between the sigmoid colon and the anterior bladder 
wall with air seen within the bladder, concerning for 
colovesicular fistula." Can consider outpatient workup/referral.

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. BuPROPion 100 mg PO DAILY 
3. ClonazePAM 0.5 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Enoxaparin Sodium 40 mg SC Q12H dvt prophylaxis 
6. Gabapentin 300 mg PO BID 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. Levothyroxine Sodium 125 mcg PO DAILY 
9. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
10. Polyethylene Glycol 17 g PO DAILY 
11. RisperiDONE 2 mg PO QHS 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Sertraline 200 mg PO DAILY 
14. Vitamin D ___ UNIT PO DAILY 
15. Ascorbic Acid ___ mg PO DAILY 
16. Multivitamins 1 TAB PO DAILY 
17. Silver Sulfadiazine 1% Cream 1 Appl TP QPM wound healing 
18. Vancomycin 1250 mg IV Q 24H 
19. Lantus (insulin glargine) unknown  subcutaneous QPM 
20. Miconazole Powder 2% 1 Appl TP BID:PRN itching 
21. Furosemide 40 mg PO DAILY:PRN leg swelling 

 
Discharge Medications:
1.  Anastrozole 1 mg PO DAILY  
2.  Clindamycin 600 mg PO Q8H Duration: 5 Days 
last day = ___  
3.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN sob/wheeze  
4.  Nystatin Cream 1 Appl TP BID  
5.  Glargine 10 Units Breakfast
Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Acetaminophen 1000 mg PO Q8H  
7.  Ascorbic Acid ___ mg PO DAILY  
8.  BuPROPion 100 mg PO DAILY  
9.  ClonazePAM 0.5 mg PO BID  
10.  Docusate Sodium 100 mg PO BID  
11.  Furosemide 40 mg PO DAILY:PRN leg swelling  
12.  Gabapentin 300 mg PO BID  
13.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
14.  Levothyroxine Sodium 125 mcg PO DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
17.  Polyethylene Glycol 17 g PO DAILY  
18.  RisperiDONE 2 mg PO QHS  
19.  Senna 8.6 mg PO BID:PRN constipation  
20.  Sertraline 200 mg PO DAILY  
21.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___ and ___)
 
Discharge Diagnosis:
# Abscess L leg
# Surgical Site Infection
# Complication of L hip replacement
# Nocturnal Hypoxia
# Endometrial cancer
# Diabetes type 2
# Depression
# Bipolar disorder
# Glaucoma
# Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
due to an infection at the site of your recent surgery.  You 
were seen by infection specialists and interventional 
radiologists.  You underwent drainage of the infection and you 
improved.  You are now ready for discharge to rehab on oral 
antibiotics (last day = ___ 

Your oncologists started you on a medications called 
'anastrozole' for your cancer, to be taken orally.  They will 
see you in follow up.

Of note, one of your xrays showed a small fracture in your R 
leg, likely related to your cancer.  The orthopedic surgeons 
recommended against surgery right now--instead they felt you 
could be partial weight bearing on that leg, and they would see 
you as an outpatient to determine how it was healing. 
 
Followup Instructions:
___